US04589905
Potassium hydroxide (1.7 grams, 0.027 mole) was dissolved in 20 ml of ethanol. This solution was poured into a refluxing solution of 5-cyano-1-tert-butyl-1H-pyrazole-4-carboxylic acid, ethyl ester, in 50 ml of ethanol. The reaction mixture was heated on a steam bath for five minutes, then poured into ice-water, filtered, and acidified with concentrated hydrochloric acid. The precipitated product was collected and dried, yielding 3.2 grams of 5-cyano-1-tert-butyl-1H-pyrazole-4-carboxylic acid (72% yield).

reactant | Potassium hydroxide | 0.027 mole, 1.7 grams | [OH-].[K+]
reactant | 5-cyano-1-tert-butyl-1H-pyrazole-4-carboxylic acid, ethyl ester | C(#N)C1=C(C=NN1C(C)(C)C)C(=O)OCC | C11H15N3O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-cyano-1-tert-butyl-1H-pyrazole-4-carboxylic acid | 3.2 grams, 72% yield | C(#N)C1=C(C=NN1C(C)(C)C)C(=O)O | C9H11N3O2
